US07776857B2
Synthesis of N-(4-(7-Morpholinoquinolin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine
The title compound was prepared according to a method described in Ali, M. H.; Buchwald, S. L. J. Org. Chem. 2001, 66, 2560. Pd2(dba)3(21 mg, 23 μmol), DavePhos (18 mg, 46 μmol), and sodium tert-butoxide (110 mg, 1141 μmol) were added into a screw-capped tube equipped with a stir bar. The tube was purged with argon. N-(4-(7-Bromoquinolin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine (237 mg, 456 μmol) was added to the purged tube, followed by morpholine (159 μl, 1825 μmol), 1,4-dioxane (2074 μl, 456 μmol), and tert-butanol (1037 μl, 456 μmol). The tube was sealed and heated to 100° C. in an oil bath for 1 h. The reaction was cooled to rt, and 22 mg of Pd2(dba)3, 20 mg of DavePhos, and 80 mg of NaOt-Bu were added. The tube was resealed and placed in a preheated oil bath at 100° C. After another 3.5 h, LCMS showed mainly product at 1.434 min as [M+H]+=526. The mixture was passed through a pad of celite with an aid of CH2Cl2. The filtrate was concentrated. The product was purified by column chromatography on silica gel eluting with 70:30 to obtain top spot, then washing with 60:40 CH2Cl2:(90:10:1 CH2Cl2:MeOH:NOH) to collect the product. Fractions containing the product were concentrated. A yellow solid was obtained and dried in the vacuum oven. The yellow solid was further purified by RPLC on the acidic Gilson workstation. Fractions containing the product were diluted with CH2Cl2 and neutralized with sat. NaHCO3. The organic layer was separated, dried over MgSO4, filtered, and concentrated. Yellow solid was obtained. HPLC showed 100% pure. LCMS confirmed product. MS Calcd for C33H27N5O2: [M]+=525. Found: [M+H]+=526.

reactant | DavePhos | 46 μmol, 18 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | sodium tert-butoxide | 1141 μmol, 110 mg | CC(C)([O-])C.[Na+]
reactant | N-(4-(7-Bromoquinolin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | 456 μmol, 237 mg | BrC1=CC=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C29H19BrN4O
reactant | morpholine | 1825 μmol, 159 μl | N1CCOCC1 | C4H9NO
reactant | 1,4-dioxane | 456 μmol, 2074 μl | O1CCOCC1 | C4H8O2
reactant | tert-butanol | 456 μmol, 1037 μl | C(C)(C)(C)O | C4H10O
reactant | DavePhos | 20 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | NaOt-Bu | 80 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 23 μmol, 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-(7-Morpholinoquinolin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | O1CCN(CC1)C1=CC=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C33H27N5O2
